US08937150B2
3-azido-2,2-bis(3-bromophenyl)propyl methanesulfonate
To a solution of 2,2-bis(3-bromophenyl)propane-1,3-diyl dimethanesulfonate (3.6 g, 6.64 mmol) in DMPU (25 mL, 207 mmol) under N2 was added NaN3 (0.52 g, 7.97 mmol) with stirring. The mixture was heated to 110° C. for 5 h. After cooling to room temperature, the reaction mixture was diluted with EtOAc (100 mL), and washed with water (30 mL×2) and brine (25 mL), dried and concentrated. The residue was purified by column chromatography (on silica gel, eluent with Petroleum ether: EtOAc=3:1) to afford 1.3 g of the title compound (2.66 mmol, 40%). LC/MS: [M+18]=507. 1HNMR (CDCl3), 400 MHz: δ 2.83 (s, 3H), 4.07 (s, 2H), 4.77 (s, 2H), 7.07-7.09 (m, 2H), 7.21-7.31 (m, 4H), 7.44-7.46 (m, 2H).

reactant | 2,2-bis(3-bromophenyl)propane-1,3-diyl dimethanesulfonate | 6.64 mmol, 3.6 g | CS(=O)(=O)OCC(COS(=O)(=O)C)(C1=CC(=CC=C1)Br)C1=CC(=CC=C1)Br | C17H18Br2O6S2
reactant | DMPU | 207 mmol, 25 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | NaN3 | 7.97 mmol, 0.52 g | [N-]=[N+]=[N-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-azido-2,2-bis(3-bromophenyl)propyl methanesulfonate | 2.66 mmol, 1.3 g, 40% | CS(=O)(=O)OCC(CN=[N+]=[N-])(C1=CC(=CC=C1)Br)C1=CC(=CC=C1)Br | C16H15Br2N3O3S
